US07989480B2
{(R)-1-Hydroxymethyl-2-[4-(4-phenoxy-phenoxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester
To a solution of ethanol/tetrahydrofuran (50/50) (2.16 mL), (R)-2-tert-Butoxycarbonylamino-3-[4-(4-phenoxy-phenoxy)-phenyl]-propionic acid methyl ester (0.125 g, 0.324 mmol) was added. Then lithium chloride (0.046 g, 1.296 mmol) and sodium borohydride (0.041 g, 1.296 mmol) dissolved in ethanol/tetrahydrofuran (50/50) (2.16 mL) were added to the reaction mixture. The resulting mixture was stirred starting at 0° C. and warming to room temperature over 18 hours. Reaction was stopped with 1N HCl (1.0 mL) and then extracted with EtOAc (20 mL) and water (15 mL). The organic layer was separated. Organic layer was washed with each and separated for the next wash, 1N HCl (15 mL), sodium bicarbonate (15 mL), and brine (15 mL). The organic layer was then dried over Na2SO4, filtered, and concentrated in vacuo to obtain a crude mixture, which was purified by silica gel flash chromatography, using EtOAc/hexane (gradient system), to obtain the product (0.1 g, 71%): 1H NMR (400 MHz, CDCL3): δ 1.42 (s, 9H), 2.75-2.82 (m, 2H), 3.56-3.70 (m, 2H), 3.85 (s, 1H), 4.73 (s, 1H), 6.94 (d, 2H, J=8.8 Hz), 6.99-7.01 (m, 5H), 7.08 (t, 1H, J=7.2 Hz), 7.17 (d, 2H, J=8.8 Hz), 7.31-7.35 (m, 2H).

reactant | (R)-2-tert-Butoxycarbonylamino-3-[4-(4-phenoxy-phenoxy)-phenyl]-propionic acid methyl ester | 0.324 mmol, 0.125 g | COC([C@@H](CC1=CC=C(C=C1)OC1=CC=C(C=C1)OC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C27H29NO6
reactant | lithium chloride | 1.296 mmol, 0.046 g | [Cl-].[Li+]
reactant | sodium borohydride | 1.296 mmol, 0.041 g | [BH4-].[Na+]
reactant | HCl | 1N, 1.0 mL | Cl | ClH
solvent | ethanol tetrahydrofuran | 2.16 mL | C(C)O.O1CCCC1
solvent | ethanol tetrahydrofuran | 2.16 mL | C(C)O.O1CCCC1
product | {(R)-1-Hydroxymethyl-2-[4-(4-phenoxy-phenoxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 0.1 g, 71% | C(C)(C)(C)OC(N[C@H](CC1=CC=C(C=C1)OC1=CC=C(C=C1)OC1=CC=CC=C1)CO)=O | C26H29NO5
